US04762927
Dissolved in 100 ml of chloroform was 9.3 g of 2-n-butyl-3-methoxy-5,6-methylenedioxyindene, followed by a dropwise addition of 15.4 g of phosphorus tribromide over 1 hour under ice cooling. After stirring the resultant mixture for further 4 hours, the reaction mixture was stirred for additional 4 hours at room temperature. The reaction mixture was washed with water, a 5% aqueous solution of sodium hydroxide and water successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: a 20:1 mixture of n-hexane and ether) to give 7.6 g of 2-n-butyl-3-bromo-5,6-methylenedioxyindene having a melting point of 63.0°-64.0° C. as crystals (yield: 68%).

reactant | 2-n-butyl-3-methoxy-5,6-methylenedioxyindene | 9.3 g | C(CCC)C=1CC2=CC3=C(C=C2C1OC)OCO3 | C15H18O3
reactant | phosphorus tribromide | 15.4 g | P(Br)(Br)Br | Br3P
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-n-butyl-3-bromo-5,6-methylenedioxyindene | 7.6 g | C(CCC)C=1CC2=CC3=C(C=C2C1Br)OCO3 | C14H15BrO2
